US08536160B2
7α-Methoxycarbonylandrostane-3,17-dione (II-bc)
To a stirred solution of 7α-carboxyandrostane-3,17-dione (680 mg) in CH2Cl2 (30 mL) at 0° C., MeOH (160 μL), DMAP (20 mg) and EDAC (800 mg) were added. After stirring overnight at room temperature, H2O was added and the mixture was extracted with CH2Cl2 (2×). The combined organic extracts were washed with H2O, brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/EtOAc 60/40) to give the title compound II-bc (500 mg, 70%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 3.63 (3H, s), 2.85 (1H, m), 2.50-0.75 (20H, m), 1.12 (3H, s), 0.86 (3H, s).

reactant | 7α-carboxyandrostane-3,17-dione | 680 mg | C(=O)(O)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C20H28O4
reactant | MeOH | 160 μL | CO | CH4O
reactant | EDAC | 800 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | H2O | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7α-Methoxycarbonylandrostane-3,17-dione | COC(=O)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C21H30O4
